US05650533
n-Butyllithium (2.5M in hexane, 4.2 ml) was added to a solution of 2-(3-chlorophenyl)-4,4-dimethyloxazoline (2 g) in THF while maintaining the temperature below -45° C. The mixture was stirred at -65° C. for 3 hours. Dimethyl disulphide (1.0 g) was added and the mixture was stirred at -65° C. for 2.5 hours and allowed to warm to room temperature. Ether was added and the mixture was washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 2-(3-chloro-2-methylsulphenylphenyl)-4,4-dimethyloxazoline (2.35 g) as a yellow oil NMR (CDCl3) 2.0(s,6H) 3.0(s,3H) 4.65(s,2H) 7.5-8.1(m,3H).

reactant | n-Butyllithium | 2.5M, 4.2 ml | C(CCC)[Li]
reactant | 2-(3-chlorophenyl)-4,4-dimethyloxazoline | 2 g | ClC=1C=C(C=CC1)C=1OCC(N1)(C)C | C11H12ClNO
reactant | Dimethyl disulphide | 1.0 g | CSSC | C2H6S2
reactant | Ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-chloro-2-methylsulphenylphenyl)-4,4-dimethyloxazoline | 2.35 g | ClC=1C(=C(C=CC1)C=1OCC(N1)(C)C)SC | C12H14ClNOS
